US06710043B1
To a solution of O-phenyl N-(4-pyridyl)carbamate (0.81 g) in chloroform (10 ml) were added 1-acetyl-4-aminopiperidine hydrochloride (0.68 g) and triethylamine (1.06 ml) at ambient temperature. After stirring for 1 day, the mixture changed to a solution. The solvents were removed under reduced pressure. A residue was purified by column chromatography (silica gel 100 ml, dichloromethane:methanol=10:1 to 5:1, and silica gel 50 ml, dichloromethane:methanol:aqueous ammonia=10:1:0.1). The solvents of desired fractions were removed under reduced pressure. A residue was dissolved with methanol (5 ml) and dichloromethane (5 ml), and 4N hydrogen chloride in dioxane (1.5 ml) was added to the solution. The solvents were removed under reduced pressure, and the residue was evaporated azeotropically with methanol. After crystallization from diisopropyl ether and n-hexane, N-(1-acetylpiperidin-4-yl)-N′-(4-pyridyl)urea (343 mg) was obtained.

reactant | O-phenyl N-(4-pyridyl)carbamate | 0.81 g | N1=CC=C(C=C1)NC(OC1=CC=CC=C1)=O | C12H10N2O2
reactant | 1-acetyl-4-aminopiperidine hydrochloride | 0.68 g | Cl.C(C)(=O)N1CCC(CC1)N
reactant | triethylamine | 1.06 ml | C(C)N(CC)CC | C6H15N
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | N-(1-acetylpiperidin-4-yl)-N′-(4-pyridyl)urea | 343 mg | C(C)(=O)N1CCC(CC1)NC(=O)NC1=CC=NC=C1 | C13H18N4O2
